US07345056B2
12-Methyl-5-(4-methoxybenzyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene
A mixture of 9-methyl-3-(pyrrolidin-1-yl)-9-azabicyclo[3.3.1]non-3-ene (1.2 g, 5.9 mmol) and 4-methoxybenzylazide (0.96 g, 5.9 mmol) was heated at 50° C. for 2 days. The crude mixture was purified by prep HPLC to afford the product (1.0 g, 3.4 mmol, 57% yield) as yellow oil.

reactant | 9-methyl-3-(pyrrolidin-1-yl)-9-azabicyclo[3.3.1]non-3-ene | 5.9 mmol, 1.2 g | CN1C2CC(=CC1CCC2)N2CCCC2 | C13H22N2
reactant | 4-methoxybenzylazide | 5.9 mmol, 0.96 g | COC1=CC=C(CN=[N+]=[N-])C=C1 | C8H9N3O
product | 12-Methyl-5-(4-methoxybenzyl)-3,4,5,12-tetraaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | 3.4 mmol, 1.0 g, 57% yield | CN1C2C=3N=NN(C3CC1CCC2)CC2=CC=C(C=C2)OC | C17H22N4O
